US05731306
Step i: 2-{2-[2-Carboxy-2-(1,3-dioxo-1,3,dihydro-isoindol-2-yl)-ethyl]-benzylamino}-4-methyl-valeric acid, tert-butyl ester
Dissolve 2-{2-[2-(1,3-dioxo-1,3,dihydro-isoindol-2-yl)-2-(2-trimethylsilanyl-ethoxycarbonyl)-ethyl]-benzylamino}-4-methyl-valeric acid, tert-butyl ester (221 mg, 0.372 mmol) in tetrahydrofuran (5 mL) and treat with tetrabutylammonium fluoride (0.43 mL of a 1.0M solution in tetrahydrofuran, 0.43 mmol). Stir for 1.5 hours, evaporate the solvent in vacuo and dissolve the residue in ethyl acetate (75 mL). Wash with 1N hydrochloric acid (25 mL) and brine (25 mL). Dry (Na2SO4) and evaporate the solvent in vacuo to give the title compound as a white solid (188 mg).

reactant | 2-{2-[2-(1,3-dioxo-1,3,dihydro-isoindol-2-yl)-2-(2-trimethylsilanyl-ethoxycarbonyl)-ethyl]-benzylamino}-4-methyl-valeric acid, tert-butyl ester | 0.372 mmol, 221 mg | O=C1N(C(C2=CC=CC=C12)=O)C(CC1=C(CNC(C(=O)OC(C)(C)C)CC(C)C)C=CC=C1)C(=O)OCC[Si](C)(C)C | C33H46N2O6Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-{2-[2-Carboxy-2-(1,3-dioxo-1,3,dihydro-isoindol-2-yl)-ethyl]-benzylamino}-4-methyl-valeric acid, tert-butyl ester | 188 mg | C(=O)(O)C(CC1=C(CNC(C(=O)OC(C)(C)C)CC(C)C)C=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C28H34N2O6
